US07238813B2
5-Amino-2-(3,4-diaminophenoxy)pyridine
2-Nitro-4-hydroxyaniline was reacted with 2-chloro-5-nitropyridine and K2CO3 in DMF at rt, followed by hydrogenation over Pd/C in MeOH, afforded the title compound; MS m/e 217 (M+1).

reactant | 2-Nitro-4-hydroxyaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)O | C6H6N2O3
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-2-(3,4-diaminophenoxy)pyridine | NC=1C=CC(=NC1)OC1=CC(=C(C=C1)N)N | C11H12N4O
